US06063932
To a 1-L three-necked flask equipped with an overhead stirrer, thermometer, and vented addition funnel was charged 71.8 g (0.304 mol) of 4-[(difluoromethyl)thio]-1,1'-biphenyl, 280 mL of glacial acetic acid, and 3.0 g of sodium tungstate predissolved in 10 mL of water. The mixture was heated to 60° C., heating was removed, and 90 mL (0.87 mol, 2.9 equiv) of 30% hydrogen peroxide was added dropwise, maintaining the temperature at 60-70° C. After the addition was complete, the mixture was heated at 80° C. for 2 h to finish the conversion. The solution was cooled to 25° C. and 140 mL of water was added gradually to complete precipitation of the product. The product was filtered, washed with three 50-mL portions of water, suction-dried, then washed with 150 mL of isopropanol, suction-dried, and oven-dried at 50° C./150 mm to afford 78 g (96%) of ca. 98%-pure 4-[(difluoromethyl)sulfonyl]-1,1'-biphenyl, m.p. 81-83° C. An analytical sample prepared by recrystallization from isopropanol/water had m.p. 83-85° C. IR(KBr): 1593, 1334, 1159, 1113, 1080, 754, 607 cm-1. 1H-NMR(CDCl3): δ6.22 (t, 1H, J=60 Hz), 7.5 (m, 3H), 7.62 (dd, 2H, 7.82 (d, 2H), 8.05 (d, 2H). 13C-NMR (CDCl3): δ114.7 (t, JCF =286 Hz), 127.4, 128.1, 129.1, 129.2, 130.1, 131.1, 138.6, 148.8 ppm. 19F-NMR (CDCl3): δ-120.5 (d, JHF =53.4 Hz).

reactant | 4-[(difluoromethyl)thio]-1,1'-biphenyl | 0.304 mol, 71.8 g | FC(SC1=CC=C(C=C1)C1=CC=CC=C1)F | C13H10F2S
reactant | acetic acid | 280 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 0.87 mol, 90 mL, 2.9 equiv | OO | H2O2
reactant | water | 10 mL | O | H2O
reactant | water | 140 mL | O | H2O
catalyst | sodium tungstate | 3.0 g | [O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 4-[(difluoromethyl)sulfonyl]-1,1'-biphenyl | FC(S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)F | C13H10F2O2S
